US07709480B2
Methyl 4-[(pyridine-3-ylmethyl)-amino]-cyclohexane-carboxylate
6.13 g of pyridine-3-aldehyde, 5.77 g of triethylamine and 9 g of methyl 4-amino-cyclohexanecarboxylate are mixed into 250 ml of methanol. 3 g of Raney nickel are added thereto un order to hydrogenate the mixture, with stirring, for about 6.5 hours at 50° C. and 3 bar. After the catalyst has been eliminated by suction filtering the filtrate is evaporated down. The crude product is purified through silica gel with methylene chloride/methanol.

reactant | pyridine-3-aldehyde | 6.13 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | triethylamine | 5.77 g | C(C)N(CC)CC | C6H15N
reactant | methyl 4-amino-cyclohexanecarboxylate | 9 g | NC1CCC(CC1)C(=O)OC | C8H15NO2
catalyst | Raney nickel | 3 g | [Ni] | Ni
solvent | methanol | 250 ml | CO | CH4O
product | Methyl 4-[(pyridine-3-ylmethyl)-amino]-cyclohexane-carboxylate | N1=CC(=CC=C1)CNC1CCC(CC1)C(=O)OC | C14H20N2O2
